US08895582B2
To a solution of (S)-2-(tert-butoxycarbonylamino)-3-(pyridin-2-yl)propanoate (1.05 g, 3.96 mmol) in THF (20 mL) was added LAH (2 M in THF, 4.0 mL, 8.0 mmol) at 0° C. The resulting solution was stirred at 0° C. for 30 min and heated to reflux for 2 h. The reaction mixture was cooled and quenched with water (0.32 mL), NaOH (3 N, 0.32 mL), and water (0.96 mL). The resulting suspension was stirred at RT for 30 min. The mixture was filtered and the filtrate was concentrate to give (S)-2-(methylamino)-3-(pyridin-2-yl)propan-1-ol (510 mg, crude), which was used without further purification.

reactant | (S)-2-(tert-butoxycarbonylamino)-3-(pyridin-2-yl)propanoate | 3.96 mmol, 1.05 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)[O-])CC1=NC=CC=C1
reactant | LAH | 8.0 mmol, 2 M, 4.0 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-2-(methylamino)-3-(pyridin-2-yl)propan-1-ol | 510 mg | CN[C@H](CO)CC1=NC=CC=C1 | C9H14N2O
